2167-07-29 06:25:00 Physician Resident Progress Note
Chief Complaint: abdominal pain
   24 Hour Events:
   [**2167-7-28**] events:
   Hct stable 34.3 -> 26.8 -> 26.7
   guaiac (-), haptoglobin normal, no evidence of hemolysis
   goal Hct > 21
   2 liters removed during HD today, still on 6 L N/C
   NTG drip continues
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.8 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2167-7-28**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Flowsheet Data as of  [**2167-7-29**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (76 - 92) bpm
   BP: 132/49(71) {124/41(67) - 157/71(86)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.8 kg (admission): 84 kg
             Total In:
                                                                    788 mL
                                                                    287 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    548 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                     75 mL
   Urine:
                                                                    150 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,362 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic),
   physiologically split S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly), rare wheeze/rales left axillae
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   178 K/uL
   8.3 g/dL
   114 mg/dL
   5.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   86 mg/dL
   94 mEq/L
   131 mEq/L
   26.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2167-7-24**]  08:11 AM
                             [**2167-7-24**]  05:47 PM
                             [**2167-7-25**]  04:49 AM
                             [**2167-7-26**]  05:46 AM
                             [**2167-7-26**]  02:10 PM
                             [**2167-7-27**]  02:42 AM
                             [**2167-7-27**]  06:51 PM
                             [**2167-7-28**]  03:47 AM
                             [**2167-7-28**]  03:30 PM
                             [**2167-7-29**]  05:00 AM
   WBC
   9.4
   9.1
   10.1
   9.5
   9.9
   7.8
   8.6
   6.6
   Hct
   31.9
   31.9
   31.7
   31.8
   34.3
   34
   26.8
   26.7
   26.9
   Plt
   132
   136
   139
   165
   182
   188
   199
   178
   Cr
   3.1
   3.4
   3.7
   4.6
   5.1
   5.5
   5.4
   TropT
   3.04
   Glucose
   181
   214
   113
   124
   156
   131
   101
   114
   Other labs: PT / PTT / INR:17.9/108.0/1.6, CK / CKMB /
   Troponin-T:130/15/3.04, ALT / AST:[**12/2118**], Alk Phos / T Bili:78/0.6,
   Amylase / Lipase:20/11, Lactic Acid:1.3 mmol/L, LDH:473 IU/L, Ca++:9.0
   mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 NAUSEA / VOMITING
 IMPAIRED SKIN INTEGRITY
 CARDIOMYOPATHY, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-7-27**] 11:13 AM
   20 Gauge - [**2167-7-28**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-07-30 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lasix 120 IV x1 in AM. Day #3 of HD removed 2.5L. Plan today per renal
   is to get Lasix 120 IV bid and to hold HD. Will re-assess need for HD
   on Friday. If continued HD is needed will get IR line placed. Began
   duonebs. NPH not given last night and sugars to 200s. Gave 9 units this
   morning for possible NPO for surgery.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril (cough);
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-7-29**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-7-30**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 75 (74 - 84) bpm
   BP: 151/62(84) {110/45(64) - 163/64(88)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.8 kg (admission): 84 kg
   Height: 63 Inch
             Total In:
                                                                  1,365 mL
                                                                      6 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    405 mL
                                                                      6 mL
   Blood products:
   Total out:
                                                                  3,039 mL
                                                                    120 mL
   Urine:
                                                                    539 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,674 mL
                                                                   -114 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal).
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles :
   lateral aspects)
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended, Not
   Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Ecchymosis on abdomen.
   Neurologic: Attentive, Follows simple commands.
   Labs / Radiology
   201 K/uL
   9.2 g/dL
   159 mg/dL
   3.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   40 mg/dL
   100 mEq/L
   139 mEq/L
   29.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2167-7-24**]  05:47 PM
                             [**2167-7-25**]  04:49 AM
                             [**2167-7-26**]  05:46 AM
                             [**2167-7-26**]  02:10 PM
                             [**2167-7-27**]  02:42 AM
                             [**2167-7-27**]  06:51 PM
                             [**2167-7-28**]  03:47 AM
                             [**2167-7-28**]  03:30 PM
                             [**2167-7-29**]  05:00 AM
                             [**2167-7-30**]  04:57 AM
   WBC
   9.1
   10.1
   9.5
   9.9
   7.8
   8.6
   6.6
   7.5
   Hct
   31.9
   31.7
   31.8
   34.3
   34
   26.8
   26.7
   26.9
   29.7
   Plt
   136
   139
   165
   182
   188
   199
   178
   201
   Cr
   3.4
   3.7
   4.6
   5.1
   5.5
   5.4
   4.4
   3.6
   Glucose
   [**Telephone/Fax (3) 9798**]56
   131
   101
   114
   159
   Other labs: PT / PTT / INR:17.1/61.4/1.5, CK / CKMB /
   Troponin-T:130/15/3.04, ALT / AST:[**12/2118**], Alk Phos / T Bili:78/0.6,
   Amylase / Lipase:20/11, Lactic Acid:1.3 mmol/L, LDH:437 IU/L, Ca++:9.0
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   66F with CAD, diastolic HF, afib on warfarin, ESRD s/p DCD renal tx in
   [**2160**] presented from OSH with NSTEMI now with worsening renal failure
   requiring HD.
   .
   #Fluid overload: [**12-29**] CHF. Requiring less O2.  Trial of Lasix 120 [**7-29**] AM
   with UOP increased to 539 over the day. HD has removed 5.5L over past 4
   days.
   - Will get Lasix 120 IV bid today and hold HD. If pt continues to
   respond will not need further HD.
   - On Duonebs
   .
   # Acute on chronic renal failure: ESRD [**12-29**] DMII/HTN s/p DCD transplant
   in [**2160**]. Baseline Cr [**12-30**] since [**1-3**] with Cr 2.9 on admission.
   Increasing since admission. Likely [**12-29**] cardiorenal vs contrast induced
   nephropathy. Transplant on board - on Cellcept, Prednisone, Prograf.
   Received femoral line and HD on [**7-27**] and has gotten HD x3.
   - Renal transplant following. Continue anti-rejection meds.
   - Will hold off HD today as well as IR tunneled line placement. Will
   reassess on Friday after Lasix trial.
   - Would pull femoral line today given risk of infxn.
   .
   # CORONARIES: Patient with h/o CAD with stress test [**2165**] showing some
   anteroapical attenuation with possible peri-infarct ischemia. Presented
   to OSH with NSTEMI and CE peak TnT 5.07 MB 40.04 and echo showing
   anteroapical akinesis. Nitro gtt did not help with pain. Decreased EF
   [**7-24**] to 40-45% and [**7-27**] to 30-35%. Plavix 300 x1 on arrival. s/p
   Heparin gtt.
   - On Plavix 75 mg
   - Continue ASA 325
   - Continue Atorvastatin 80 mg
   - Discontinued Metoprolol 12.5mg [**Hospital1 7**] given low HR and prior pause on
   tele
   .
   # PUMP: Pt has baseline diastolic dysfunction with marked pulmonary HTN
   (TR gradient 60-70). EF decreased to 40-45% on [**7-24**] and 30-35% on [**7-27**]
   from baseline 60% on [**3-5**]. Likely [**12-29**] to NSTEMI. Decreased UOP, thought
   to be combination of low flow and acute renal failure.
   - Metoprolol stopped
   - No ACE/[**Last Name (un) **] given patient had SE of cough while on ACEi in the past
   and now in [**Last Name (un) **].
   - Would not start Spironolactone given K sparing effects in light of
   [**Last Name (un) **].
   .
   # RHYTHM: history of PAF s/p failed cardioversion x 2, on long term
   coumadin as well as history of bradyarrhythmia. INR 5.1 on admission
   given VitK 2.5 SQ. On tele pt is intermittently in a-fib with rate
   70s-85. Pause for 6sec at 7:10 and 3sec at 22:00 on [**7-26**]. D/Cd
   metoprolol.
   - Coumadin stopped, heparin ggt started for better monitoring, and
   because patient may need further HD related procedures.
   - Continue to monitor on tele
   .
   # DMII, c/b neuropathy, retinopathy, nephropathy: On NPH 18u qhs and
   insulin SS. NPH dose was missed last night. Given
 dose this morning
   and will give full dose if pt is not going to IR. On Levemir 25-30u qhs
   at home
 would transition back tonight.
   .
   # Hypertension: Hypertensive to SBPs 160s on admission. BP labile in
   CCU. On and off nitro gtt.  Home meds Amlodipine, Clonidine,
   Hydralazine, Furosemide.
   - On Amlodipine 5 po qd and Lasix.
   - Could readd Hydralazine today.
   .
   # Anemia: On oral iron. H/H recovering after 2-3u dropped after fem
   line placement and nitro gtt. Baseline [**9-25**].
   .
   # Abdominal Pain: Resolved, no longer diffusely tender. CT abdomen did
   not show any signs of mesenteric ischemia. Likely [**12-29**] embolism from
   coronary event vs constipation.
   - Continue bowel regimen with soap suds enemas PRN, senna, colace,
   psyllium.
   - Currently on diluadid and morphine PRN for pain control.
   - Continue to monitor abdominal exam for peritoneal signs.
   .
   #  Hypothyroidism: TSH wnl, continue Levothyroxine 88 mcg.
   .
   # GERD:  Famotidine 20mg po Qday.
   .
   # Gout: hold colchicine
   .
   FEN: diabetic diet, monitor electrolytes.
   .
   ACCESS: PIV, femoral line
   .
   CODE: Presumed full
   .
   COMM: patient
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-7-27**] 11:13 AM
   20 Gauge - [**2167-7-28**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 40 minutes.

2167-07-31 07:03:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   decided not to remove right fem line yesterday in anticipation of
   possible HD today
   received lasix 120 mg IV x 2
   desats to high 70s on RA
   Added imdur ER 30 last night for SBP 160s
   increased tacro to 1 mg [**Hospital1 7**]
   Added prn dulcolax and lactulose for constipation
   Changed from NPH to Lantus
   holding heparin this morning in anticipation of possible line removal
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril (cough);
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-7-30**] 07:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-7-31**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 74 (69 - 80) bpm
   BP: 147/63(84) {96/50(71) - 170/77(100)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 97% on 3L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 84 kg
   Height: 63 Inch
             Total In:
                                                                    207 mL
                                                                     27 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    117 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    450 mL
   Urine:
                                                                  1,530 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,323 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR. (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   1-2/6 systolic murmur @ L sternal border
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   clear anteriorly, in axillae
   Abdominal: Soft, Non-tender, Non distended. Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Ecchymosis on abdomen.
   Neurologic: Attentive, Responds to simple commands.
   Labs / Radiology
   202 K/uL
   9.0 g/dL
   136 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   46 mg/dL
   99 mEq/L
   139 mEq/L
   29.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2167-7-26**]  05:46 AM
                             [**2167-7-26**]  02:10 PM
                             [**2167-7-27**]  02:42 AM
                             [**2167-7-27**]  06:51 PM
                             [**2167-7-28**]  03:47 AM
                             [**2167-7-28**]  03:30 PM
                             [**2167-7-29**]  05:00 AM
                             [**2167-7-30**]  04:57 AM
                             [**2167-7-30**]  09:27 PM
                             [**2167-7-31**]  04:14 AM
   WBC
   9.5
   9.9
   7.8
   8.6
   6.6
   7.5
   8.4
   Hct
   31.8
   34.3
   34
   26.8
   26.7
   26.9
   29.7
   29.5
   Plt
   165
   182
   188
   199
   178
   201
   202
   Cr
   4.6
   5.1
   5.5
   5.4
   4.4
   3.6
   4.1
   4.1
   Glucose
   124
   156
   131
   101
   114
   159
   351
   136
   Other labs: PT / PTT / INR:15.7/47.4/1.4, CK / CKMB /
   Troponin-T:130/15/3.04, ALT / AST:[**12/2118**], Alk Phos / T Bili:78/0.6,
   Amylase / Lipase:20/11, Lactic Acid:1.3 mmol/L, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   66F with CAD, diastolic HF, afib on warfarin, ESRD s/p DCD renal tx in
   [**2160**] presented from OSH with NSTEMI now with worsening renal failure
   requiring HD.
   .
   #SOB/Fluid overload: [**12-29**] CHF. Requiring less O2.  Trial of Lasix 120
   [**7-29**] and [**7-30**] AM with UOP >1500 over past 24 hours. HD has removed 5.5L
   over past 4 days.  No HD yesterday.
   - Renal service to eval this morning, possible HD today for
   hypervolemia, which is continuing to improve with aggressive diuresis
   - On Duonebs
   .
   # Acute on chronic renal failure: ESRD [**12-29**] DMII/HTN s/p DCD transplant
   in [**2160**]. Baseline Cr [**12-30**] since [**1-3**] with Cr 2.9 on admission.
   Increasing since admission, improved with successive HD sessions, now
   stable at 4.1, pt tolerating lasix. Etiology likely [**12-29**] cardiorenal vs
   contrast induced nephropathy. Transplant on board - on Cellcept,
   Prednisone, Prograf. Received femoral line and HD on [**7-27**] and has
   gotten HD x3.
   - Renal transplant following. Continue anti-rejection meds, increased
   tacro yesterday.
   - possible HD today.  defer IR tunneled line placement until next week
   if necessary, hopefully won
t be necessary
   - possible femoral line this AM, later if HD today, given risk of
   infxn.
   .
   # CORONARIES: Patient with h/o CAD with stress test [**2165**] showing some
   anteroapical attenuation with possible peri-infarct ischemia. Presented
   to OSH with NSTEMI and CE peak TnT 5.07 MB 40.04 and echo showing
   anteroapical akinesis. Nitro gtt did not help with pain. Decreased EF
   [**7-24**] to 40-45% and [**7-27**] to 30-35%. Plavix 300 x1 on arrival. s/p
   Heparin gtt.
   - On Plavix 75 mg
   - Continue ASA 325
   - Continue Atorvastatin 80 mg
   - Discontinued Metoprolol 12.5mg [**Hospital1 7**] given low HR and prior pause on
   tele
   .
   # PUMP: Pt has baseline diastolic dysfunction with marked pulmonary HTN
   (TR gradient 60-70). EF decreased to 40-45% on [**7-24**] and 30-35% on [**7-27**]
   from baseline 60% on [**3-5**]. Likely [**12-29**] to NSTEMI. Initial decreased UOP,
   thought to be combination of low flow and acute renal failure.
   - Metoprolol stopped
   - No ACE/[**Last Name (un) **] given patient had SE of cough while on ACEi in the past
   and now in [**Last Name (un) **] -> will consider [**Last Name (un) **] if renal fxn improves
   - Would not start Spironolactone given K sparing effects in light of
   [**Last Name (un) **].
   .
   # RHYTHM: history of PAF s/p failed cardioversion x 2, on long term
   coumadin as well as history of bradyarrhythmia. INR 5.1 on admission
   given VitK 2.5 SQ. On tele pt is intermittently in a-fib with rate
   70s-85. Pause for 6sec at 7:10 and 3sec at 22:00 on [**7-26**]. D/Cd
   metoprolol.
   - Coumadin stopped, heparin ggt started for better monitoring, and
   because patient may need further HD related procedures.
   - Continue to monitor on tele -> no pause since [**7-26**], 2 sec pause noted
   then, will consider restarting metoprolol
   .
   # DMII, c/b neuropathy, retinopathy, nephropathy: On Lantus 20u qhs
   transitioned from NPH yesterday. Got 30u Lantus last evening.
   - Follow sugars today and monitor for possible hypoglycemia.
   .
   # Hypertension: Hypertensive to SBPs 160s on admission. BP labile in
   CCU. On and off nitro gtt.  Home meds Amlodipine, Clonidine,
   Hydralazine, Furosemide.
   - On Amlodipine 5 po qd and Lasix PRN and Imdur ER 30 qd.
   - will start coreg 3.125 mg [**Hospital1 7**], first dose after line removal
   .
   # Anemia: On oral iron. H/H recovering after 2-3u dropped after fem
   line placement and nitro gtt. Baseline [**9-25**].
   .
   # Abdominal Pain: Resolved, no longer diffusely tender. CT abdomen did
   not show any signs of mesenteric ischemia. Likely [**12-29**] embolism from
   coronary event vs constipation.
   - Continue bowel regimen with soap suds enemas PRN, senna, colace,
   psyllium, lactulose, dulcolax.
   - Currently on diluadid and morphine PRN for pain control.
   .
   #  Hypothyroidism: TSH wnl, continue Levothyroxine 88 mcg.
   .
   # GERD:  Famotidine 20mg po Qday.
   .
   # Gout: hold colchicine
   .
   FEN: diabetic diet, monitor electrolytes.
   .
   ACCESS: PIV, femoral line
   .
   CODE: Presumed full
   .
   COMM: patient
   .
   DISPO: CCU for now, possible call out later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-7-27**] 11:13 AM
   20 Gauge - [**2167-7-28**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Doctor Last Name 9827**].
   I would add the following remarks:
   Medical Decision Making
   Resolving ATN.  Remove femoral line.  Continue medical managment of
   ACS/NSTEMI.  Hold GPI given CRI.  Continue Plavix.  Timing of
   catheterization (indicated because of CRI, DM, low EF as high risk
   markers for short term complications of MI) still to be determined
   pending resolution of acute on chronic renal failure.  Will discuss
   with Dr. [**Last Name (STitle) 4292**].
   Patient care time 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2167-7-31**] 08:43 ------